US04966828
Preparation of compound 6: 2-trichloroacetylmethylene-3-ethyl-benzothiazoline
10 g (28.6 mmol) of 2-methyl-3-ethyl-benzothiazolium p-toluenesulfonate are suspended in 150 ml of toluene, 6.8 g (67.2 mmol) of triethylamine are added and, at 5°-10° C. 6 g (33 mmol) of trichloroacetyl chloride, dissolved in a minor amount of toluene, are added dropwise. After three hours at room temperature, the ammonium salts are filtered off with suction, and the reaction solution is washed with water, dried over sodium sulfate and concentrated in vacuo. The product is caused to crystallize from the diisopropyl ether.

reactant | 2-methyl-3-ethyl-benzothiazolium p-toluenesulfonate | 28.6 mmol, 10 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.CC=1SC2=C([N+]1CC)C=CC=C2
reactant | triethylamine | 67.2 mmol, 6.8 g | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 33 mmol, 6 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-trichloroacetylmethylene-3-ethyl-benzothiazoline | ClC(C(=O)C=C1SC2=C(N1CC)C=CC=C2)(Cl)Cl | C12H10Cl3NOS
